US07781431B2
Step 5: ethyl 4-[(tert-butoxycarbonyl)amino]-5-[(trimethylsilyl)ethynyl]thiophene-2-carboxylate
A solution (0.1 M) of ethyl 5-bromo-4-[(tert-butoxycarbonyl)amino]thiophene-2-carboxylate in THF was treated with trimethylsilylacetylene (1.3 eq.), Et3N (1.5 eq.), CuI (0.04 eq.) and PdCl2(PPh3)2 (0.01 eq.). The solution was heated at 50° C. for 3 h. After cooling down, it was filtered through a pad of celite and washed with AcOEt. The organic layer was washed with brine and dried then concentrated and the residue was purified by flash chromatography on silica gel (1:19 AcOEt/petroleum ether) to afford the title compound (70%) as a solid.

reactant | ethyl 5-bromo-4-[(tert-butoxycarbonyl)amino]thiophene-2-carboxylate | 0.1 M | BrC1=C(C=C(S1)C(=O)OCC)NC(=O)OC(C)(C)C | C12H16BrNO4S
reactant | trimethylsilylacetylene | 1.3 eq. | C[Si](C)(C)C#C | C5H10Si
reactant | Et3N | 1.5 eq. | CCN(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
catalyst | CuI | 0.04 eq. | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.01 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | ethyl 4-[(tert-butoxycarbonyl)amino]-5-[(trimethylsilyl)ethynyl]thiophene-2-carboxylate | 70% | C(C)(C)(C)OC(=O)NC=1C=C(SC1C#C[Si](C)(C)C)C(=O)OCC | C17H25NO4SSi
